US07329764B2
To a solution of 2 M n-BuLi in pentane (1.62 mL, 3.24 mmol) in 8 mL of dry THF under N2 at −78° C. was added 2-fluoro-6-(trifluoromethyl)benzonitrile (612 mg, 3.24 mmol) in 2 mL of dry THF. The mixture was stirred at −78° C. for 30 min, followed by the addition of iodine (1070 mg, 4.22 mmol) in 2 mL of dry THF. The reaction mixture was warmed up and stirred for 2 h at room temperature. Water was added followed by a solution of Na2S2O3. The mixture was extracted with EtOAc. The organic layer was separated and washed with water and brine. The organic layer was dried over anhydrous MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography eluting with 5% EtOAc/hexane. The product fractions were collected and concentrated to afford 180 mg (17.7%) of 2-fluoro-3-iodo-6-trifluoromethylbenzonitrile as a brown dark solid.

reactant | n-BuLi | 2 M | [Li]CCCC
reactant | pentane | 3.24 mmol, 1.62 mL | CCCCC | C5H12
reactant | 2-fluoro-6-(trifluoromethyl)benzonitrile | 3.24 mmol, 612 mg | FC1=C(C#N)C(=CC=C1)C(F)(F)F | C8H3F4N
reactant | iodine | 4.22 mmol, 1070 mg | II | I2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-fluoro-3-iodo-6-trifluoromethylbenzonitrile | 180 mg, 17.7% | FC1=C(C#N)C(=CC=C1I)C(F)(F)F | C8H2F4IN
